US06403521B1
A mixture of 10 mmol of adamantane, 0.8 mmol of 6-trifluoromethyl-1-hydroxybenzotriazole, 0.06 mmol of acetylacetonatocobalt(III), and 25 ml of acetic acid was stirred at 90° C. in an oxygen atmosphere (1 atm) for 8 hours. A gas chromatographic analysis of products in a reaction mixture found that 1-adamantanol and 1,3-adamantanediol were formed in yields of 38% and 4%, respectively, with a conversion rate from adamantane of 48%.

reactant | adamantane | 10 mmol | C12CC3CC(CC(C1)C3)C2 | C10H16
reactant | 6-trifluoromethyl-1-hydroxybenzotriazole | 0.8 mmol | FC(C=1C=CC2=C(N(N=N2)O)C1)(F)F | C7H4F3N3O
reactant | oxygen | O=O | O2
reactant | 1-adamantanol | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1,3-adamantanediol | C12(CC3(CC(CC(C1)C3)C2)O)O | C10H16O2
